US09145441B2
Compound 117c: (S)-1-[(S)-2-((S)-2-{(E)-4-[2-((R)-1-Acetoxy-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoylamino}-3-methyl-butyrylamino)-3-methoxy-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester
Compound 117c was prepared in the same manner as (S)-1-[(S)-2-((S)-2-{(E)-4-[2-((R)-1-acetoxy-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoylamino}-3-methyl-butyrylamino)-3-pyrazol-1-yl-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester using (S)-1-[(S)-2-((S)-2-tert-butoxycarbonylamino-3-methyl-butyrylamino)-3-methoxy-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester (700 mg, 1.25 mmol) instead of (S)-1-[(S)-2-((S)-2-tert-butoxycarbonylamino-3-methyl-butyrylamino)-3-pyrazol-1-yl-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester to afford the title compound as an off white foam (460 mg, 48%) and as a 1:1 mixture of two diastereoisomers. LCMS (m/z) 770.2 [M+H], Tr=3.06 min.

reactant | (S)-1-[(S)-2-((S)-2-{(E)-4-[2-((R)-1-acetoxy-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoylamino}-3-methyl-butyrylamino)-3-pyrazol-1-yl-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](CN1N=CC=C1)NC([C@H](C(C)C)NC(C(\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)OC(C)=O)(C)C)=O)=O)=O)(Cl)Cl | C37H46Cl3N7O7
reactant | (S)-1-[(S)-2-((S)-2-tert-butoxycarbonylamino-3-methyl-butyrylamino)-3-methoxy-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 1.25 mmol, 700 mg | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](COC)NC([C@H](C(C)C)NC(=O)OC(C)(C)C)=O)=O)(Cl)Cl | C21H35Cl3N4O7
product | (S)-1-[(S)-2-((S)-2-{(E)-4-[2-((R)-1-Acetoxy-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoylamino}-3-methyl-butyrylamino)-3-methoxy-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](COC)NC([C@H](C(C)C)NC(C(\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)OC(C)=O)(C)C)=O)=O)=O)(Cl)Cl | C35H46Cl3N5O8
